US05214037
To a solution of 7β-phenylacetamido-3-(1,2,3-triazol-4-ylthiomethylthio)-3-cephem-4-carboxylic acid diphenylmethyl ester (10.0 g : 15.9 mMol.) in dichloromethane (100 ml) under ice cooling are added pyridine (1.54 ml : 19.1 mMol.) and trityl chloride (5.32 g 19.1 mMol.), and the mixture is stirred at room temperature for 1 hour. The reaction mixture is mixed with 10% hydrochloric acid (2 ml), diluted with water, and extracted with ethyl acetate. The extract is washed with water, dried over sodium sulfate, and concentrated. To a solution of the residue in dichloromethane (50 ml) under ice cooling are added pyridine (2.57 ml : 31.8 mMol.) and phosphorus pentachloride (5.96 g : 28.6 mMol.), and the mixture is stirred for 30 minutes. The reaction mixture is added dropwise to a solution of 1.3-butanediol (8.6 ml : 95.9 mMol.) in dichloromethane (25 ml) at -30° C. , and the mixture is stirred at -20 to -30° C. for 10 minutes and under ice cooling for 40 minutes. The reaction mixture is mixed with water, diluted with dichloromethane, washed with brine, dried over sodium sulfate, and concentrated. The residue is pulverized with ether, washed with ether, dissolved in dichloromethane, washed with 5% aqueous sodium hydrogen carbonate, dried over sodium sulfate, and concentrated. The residue is purified by silica gel chromatography (toluene : ethyl acetate=2:1) to give 7β-amino-3-(trityl-1,2,3-triazol-4-ylthiomethylthio) -3-cephem-4- carboxylic acid diphenylmethyl ester (6.70 g : pale yellow foam. Yield: 56 %,

reactant | 7β-phenylacetamido-3-(1,2,3-triazol-4-ylthiomethylthio)-3-cephem-4-carboxylic acid diphenylmethyl ester | 15.9 mMol, 10.0 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)C1=C(CS[C@H]2N1C([C@H]2NC(CC2=CC=CC=C2)=O)=O)SCSC=2N=NNC2 | C31H27N5O4S3
reactant | pyridine | 19.1 mMol, 1.54 ml | N1=CC=CC=C1 | C5H5N
reactant | trityl chloride | 19.1 mMol, 5.32 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | hydrochloric acid | 2 ml | Cl | ClH
reactant | pyridine | 31.8 mMol, 2.57 ml | N1=CC=CC=C1 | C5H5N
reactant | phosphorus pentachloride | 28.6 mMol, 5.96 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | 1.3-butanediol | 95.9 mMol, 8.6 ml | C(CC(C)O)O | C4H10O2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | 7β-amino-3-(trityl-1,2,3-triazol-4-ylthiomethylthio) -3-cephem-4- carboxylic acid diphenylmethyl ester | Yield: 56 % | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)C1=C(CS[C@H]2N1C([C@H]2N)=O)SC(SC=2N=NNC2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C42H35N5O3S3
